US08404740B2
Benzyl-(1,4-dioxaspiro[4.5]dec-8-ylidene)amine
4 Å molecular sieve (20 g) and benzylamine (8.90 g, 83 mmol) were added to a solution of 1,4-dioxaspiro[4.5]decan-8-one (10.0 g, 64 mmol) in dichloromethane (100 ml), and the reaction mixture was stirred for 16 h at room temperature. The suspension was then filtered and the filtrate was concentrated in vacuo.

reactant | benzylamine | 83 mmol, 8.90 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 64 mmol, 10.0 g | O1CCOC12CCC(CC2)=O | C8H12O3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Benzyl-(1,4-dioxaspiro[4.5]dec-8-ylidene)amine | C(C1=CC=CC=C1)N=C1CCC2(OCCO2)CC1 | C15H19NO2
